US07687637B2
28a) N-[5-(4-Methoxy-phenyl)-4-methyl-thiazol-2-yl]-acetamide
4-methoxyphenylacetone (10 g, 60.9 mmol), N-acetylthiourea (7.2 g, 60.9 mmol) and iodine (15.46 g, 60.9 mmol) in pyridine (50 ml) are stirred at 70° C. for 16 hours. The mixture is concentrated and the residue is purified by chromatography on silica with iso-hexane-ethyl acetate (1:1) to give the titled compound.

reactant | 4-methoxyphenylacetone | 60.9 mmol, 10 g | COC1=CC=C(C=C1)CC(C)=O | C10H12O2
reactant | N-acetylthiourea | 60.9 mmol, 7.2 g | C(C)(=O)NC(=S)N | C3H6N2OS
reactant | iodine | 60.9 mmol, 15.46 g | II | I2
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | N-[5-(4-Methoxy-phenyl)-4-methyl-thiazol-2-yl]-acetamide | COC1=CC=C(C=C1)C1=C(N=C(S1)NC(C)=O)C | C13H14N2O2S
